US05478838
Sodium azide (2.5 g) was added to a solution (50 ml) of 1-benzyl-4-chloro-1H-pyrazolo[3,4-b]pyridine (4.7 g) in dimethylformamide and the mixture was stirred at 100°-120° C. for 1 hour. After completion of the reaction, the reaction mixture was poured into ice water, made acidic with acetic acid and extracted with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography to give 2.7 g of 4-azido-1-benzyl-1H-pyrazolo[3,4-b]pyridine.

reactant | Sodium azide | 2.5 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-benzyl-4-chloro-1H-pyrazolo[3,4-b]pyridine | 50 ml, 4.7 g | C(C1=CC=CC=C1)N1N=CC=2C1=NC=CC2Cl | C13H10ClN3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-azido-1-benzyl-1H-pyrazolo[3,4-b]pyridine | 2.7 g | N(=[N+]=[N-])C1=C2C(=NC=C1)N(N=C2)CC2=CC=CC=C2 | C13H10N6
